US05643920
Preparation of 1-(4-chlorophenyl)-8,9-dihydro-7-methylene-7H-pyrrolo[3,2,1-ij]quinoline
Methyltriphenylphosphonium bromide (3.8 g) was added to 25 ml of anhydrous tetrahydrofuran. To this mixture was added the solution of potassium t-butoxide (1.2 g) in 25 ml of tetrahydrofuran at ambient temperature. After stirring for 3 hours, to this solution was added the solution of 1-(4-chlorophenyl)-8,9-dihydro-7H-pyrrolo[3,2,1-ij]quinolin-7-one (1.5 g), which was obtained in example 2, in 15 ml of tetrahydrofuran. After stirring for 30 min., to this solution was added water and extracted with ethyl acetate. The organic solution was washed with brine and dried over anhydrous sodium sulfate. After removing drying agent by filtration and organic solvent by evaporation under reduced pressure, the residue was purified by alumina column chromatography, and the title compound was obtained as yellow crystals (1.1 g) .

reactant | potassium t-butoxide | 1.2 g | CC(C)([O-])C.[K+]
reactant | 1-(4-chlorophenyl)-8,9-dihydro-7H-pyrrolo[3,2,1-ij]quinolin-7-one | 1.5 g | ClC1=CC=C(C=C1)C1=CN2C=CC=C3C(CCC1=C23)=O | C17H12ClNO
reactant | water | O | H2O
catalyst | Methyltriphenylphosphonium bromide | 3.8 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-(4-chlorophenyl)-8,9-dihydro-7-methylene-7H-pyrrolo[3,2,1-ij]quinoline | ClC1=CC=C(C=C1)C1=CN2C=CC=C3C(CCC1=C23)=C | C18H14ClN
